US04219482
In this way, 4-nitro-benzaldehyde reacts with tert-butanol in the presence of tert-butyl hypiodite to give tert-butyl 4-nitro-benzoate.

reactant | 4-nitro-benzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | tert-butanol | C(C)(C)(C)O | C4H10O
product | tert-butyl 4-nitro-benzoate | [N+](=O)([O-])C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H13NO4
